2182-04-24 07:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 IABP LINE - START [**2182-4-23**] 03:43 PM
   No overnight events
   - this am the patient complains of back pain from laying flat but no
   chest pain
   Allergies:
   Lisinopril
   Cough;
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,900 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2182-4-24**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**84**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.4
   HR: 51 (49 - 64) bpm
   BP: 131/54(95) {121/51(89) - 163/68(120)} mmHg
   RR: 14 (14 - 22) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
             Total In:
                                                                    294 mL
                                                                    142 mL
   PO:
             TF:
   IVF:
                                                                    174 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                    370 mL
                                                                    325 mL
   Urine:
                                                                    370 mL
                                                                    325 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -76 mL
                                                                   -182 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ////
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   181 K/uL
   14.8 g/dL
   0.9
   26
   4.2
   15
   104
   140
   40.4 %
   10.7 K/uL
        [image002.jpg]
                             [**2182-4-24**]  04:51 AM
   WBC
   10.7
   Hct
   40.4
   Plt
   181
   Assessment and Plan
   Mr. [**Known lastname 3431**] is a 62 YOM with coronary artery disease status post bare
   metal stent to left circumflex who presented for elective
   catheterization secondary to exertional angina and positive stress
   Sestamibi, who was found to have significant left main disease and is
   status post balloon pump while awaiting CABG.
   .
   # CORONARIES:  Known coronary artery disease with previous bare metal
   stent.  Now found to have significant disease throughout the left main,
   LAD, and right coronary artery.  The patient is at significant risk for
   ischemia and would benefit from CABG.  Because of severity of coronary
   artery disease he had placement of balloon pump necessitating ICU
   monitoring.
   -- continue heparin gtt
   -- Continue metoprolol 50 mg [**Hospital1 **] (will hold if HR < 55)
   -- Continue full dose asa and simvastatin
   -- CT surgery consulted for CABG today with Dr. [**Last Name (STitle) 2386**] (consented)
   -- Pre-op UA, CXR, coags
   -- NPO at MN
   -- Will need PT consult after CABG
   -- On balloon pump for increased perfusion of coronary arteries not
   because of decreased EF, but because degree of stenosis and goal of
   increased coronary perfusing pressure
   .
   # PUMP:  Evidence of moderate RV dilation and hypokinesis and regional
   left ventricular systolic dyfunction but preserved EF.
   -- On balloon pump as above
   -- Will need to start [**Last Name (un) 284**] (allergy to ACEi)
   -- Continue metoprolol
   .
   # RHYTHM: Patient is in NSR with rates in the low 60s, high 50s.  No
   evidence of AV delay or heart block
   -- continue to monitor on telemetry
   -- Replete lytes PRN
   -- Will give metoprolol 50 mg [**Hospital1 **], but hold if HR < 55
   .
   #  HYPERTENSION: BP in the 140s.  Pt thinks he is supposed to take 100
   mg metoprolol [**Hospital1 **], however, this was recently changed to half this dose
   ([**2182-4-22**])
   -- as above continue metoprolol 50 mg [**Hospital1 **]
   .
   #  HYPERLIPIDEMIA:
   -- Continue simvastatin
   .
   #  GLUCOSE INTOLLERANCE:
   -- FS QID
   -- Insulin SS
   .
   #  DEPRESSION:
   -- Continue Lexapro
   -- SW consult for coping
   .
   FEN:  Cardiac heart healthy diet, NPO for procedure at MN
   .
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   IABP line - [**2182-4-23**] 03:43 PM
   20 Gauge - [**2182-4-23**] 03:44 PM
   Prophylaxis:
   DVT:  hep gtt
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: :  Patient and Wife [**First Name8 (NamePattern2) 1271**] [**Name (NI) 3431**])
   Code status: Full code (confirmed)
   Disposition: CT surgery after CABG